US06911458B2
N-{2-[(2S)Oxiranylmethoxy]phenyl}acetamide
(2S)-2-[(2-nitrophenoxy)methyl]oxirane (1.17 g, 6 mmol) was dissolved in ethyl acetate (50 ml). Platinum on charcoal (0.50 g) was added, and the mixture was stirred in the atmosphere of hydrogen for 3 h at room temperature and atmospheric pressure. The catalyst was filtered and washed on the filter with ethyl acetate (10 ml). Acetic anhydride (1.23 g, 1.13 , ml, 12 mmol) and ethyldi(i-propyl)amine (1.55 g, 2.05 ml, 12 mmol) were added to the solution. The reaction mixture was stirred at room temperature for 3 h, then washed with 1M NaOH (2×50 ml) and brine (2×50 ml), and dried with Na2SO4. Evaporation of the solvent and flash chromatography on silica gel with n-heptane/ethyl acetate (from 25 to 75%) afforded the title compound (0.74 g, 3.57 mmol, 60%) as colourless crystals.

reactant | (2S)-2-[(2-nitrophenoxy)methyl]oxirane | 6 mmol, 1.17 g | [N+](=O)([O-])C1=C(OC[C@H]2OC2)C=CC=C1 | C9H9NO4
reactant | hydrogen | [H][H] | H2
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyldi(i-propyl)amine | 12 mmol, 2.05 ml, 1.55 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum on charcoal | 0.50 g | [Pt] | Pt
product | N-{2-[(2S)Oxiranylmethoxy]phenyl}acetamide | 3.57 mmol, 0.74 g, 60% | O1[C@@H](C1)COC1=C(C=CC=C1)NC(C)=O | C11H13NO3
